US07037932B2
b) 7-Methoxy-1-benzothiophene-2-carbonitrile
A solution of 2-iodo-7-methoxy-1-benzothiophene (10.0 g, 0.35 mol), copper (1) cyanide (6.17 g, 0.68 mol) and anhydrous N,N-dimethylformamide (40 mL) are warmed to 130° C. After 2.5 h at 130° C. no starting material is detectable as measured by HPLC at 220 nm. The reaction is cooled to 40° C. and a solution 25% v/v ethylenediamine in water (30 mL) and toluene (20 mL) are added. The mixture is stirred to room temperature. Additional toluene (30 mL) is added and the heterogeneous mixture is filtered. The layers of the mother liquors are separated and the aqueous layer is extracted with toluene (3×50 mL). The combined organic extracts were washed with water (2×50 mL), dried (MgSO4) and the solvent evaporated in vacuo to give the title compound (5.78 g, 88%), which was used without further purification; δH (300 MHz, CDCl3) 7.79 (1H, s, 3-ArH), 7.46–7.38 (1H, m, 4-ArH), 7.37–7.31 (1H, m, 5-ArH), 6.88–6.82 (1H, m, 6-ArH) and 3.94 (3H, s, OCH3).

reactant | 2-iodo-7-methoxy-1-benzothiophene | 0.35 mol, 10.0 g | IC=1SC2=C(C1)C=CC=C2OC | C9H7IOS
reactant | copper (1) cyanide | 0.68 mol, 6.17 g | [Cu]C#N
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | water | 30 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-1-benzothiophene-2-carbonitrile | 5.78 g, 88% | COC1=CC=CC=2C=C(SC21)C#N | C10H7NOS
